US08097610B2
A mixture of 2,6-dichlorobenzothiazole (3.00 g; 14.7 mmol), 4-piperidine ethanol (2.09 g; 16.2 mmol), potassium carbonate (2.33 g; 16.2 mmol) and anhydrous N,N-dimethylformamide (15 ml) was stirred at room temperature for 16 hours. Water and ethyl acetate were added to the reaction solution. The organic layer was separated, washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure. The precipitate was washed with diisopropyl ether to give 6-chloro-2-[4-(2-hydroxyethyl)piperidine-1-yl]benzothiazole as green crystal (2.92 g; 67%).

reactant | 2,6-dichlorobenzothiazole | 14.7 mmol, 3.00 g | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | 4-piperidine ethanol | 16.2 mmol, 2.09 g | N1CCC(CC1)CCO | C7H15NO
reactant | potassium carbonate | 16.2 mmol, 2.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 6-chloro-2-[4-(2-hydroxyethyl)piperidine-1-yl]benzothiazole | ClC1=CC2=C(N=C(S2)N2CCC(CC2)CCO)C=C1 | C14H17ClN2OS
